US06596832B2
A catalyst was prepared by combining, in a primarily nitrogen environment under ambient temperature and pressure, 2.92 grams of TiCl3.AA with 23.07 grams of purified petroleum distillate, together with 2.05 grams of dibutyl ether promoter according to the teachings of Mack U.S. Pat. No. 4,416,714. The solution was held for 30 minutes while stirring. The catalyst was then activated using 20.71 grams of an aluminum cocatalyst, a 25% solution of diisobutyl aluminum chloride (DIBAC) in heptane solvent (“25% DIBAC solution”). Again, the mixture was held for 30 minutes while stirring. An octene-decene copolymer was prepared in a primarily nitrogen environment under standard temperature and pressure by mixing 381.2 grams of octene with 119.0 grams of decene in a beaker. After stirring, 4.0 milliliters of a 25% DIBAC solution was added to the beaker. The mixture was held for 30 minutes without stirring. A 3.0 milliliter portion of the catalyst mixture prepared was added to the beaker while stirring continuously. The entire mixture was allowed to react. The subsequent copolymer was subsequently tested and found to have a 95.53% conversion to polymer with an inherent viscosity of 27.8 deciliters/gram.

reactant | dibutyl ether | 2.05 grams | C(CCC)OCCCC | C8H18O
reactant | aluminum | 20.71 grams | [Al] | Al
reactant | diisobutyl aluminum chloride | [Cl-].C(C(C)C)[Al+]CC(C)C
reactant | octene | 381.2 grams | C=CCCCCCC | C8H16
reactant | decene | 119.0 grams | C=CCCCCCCCC | C10H20
solvent | heptane | CCCCCCC | C7H16
product | octene decene | C=CCCCCCC.C=CCCCCCCCC | InChI=1S/C10H20.C8H16/c1-3-5-7-9-10-8-6-4-2;1-3-5-7-8-6-4-2/h3H,1,4-10H2,2H3;3H,1,4-8H2,2H3
